US08623875B2
Preparation of 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-N-(dimethyl-λ4-sulfanylidene)-1-naphthalenecarboxamide
To a stirred solution of dimethylsulfoxide (38 mg) in dichloromethane (1 mL) at −60° C. was added trifluoroacetic anhydride (105 mg). After the reaction mixture was stirred for 10 minutes at −60° C., a solution of 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenecarboxamide (75 mg, in 1.5 mL of dichloromethane and 0.4 mL of dimethylsulfoxide) was added. The reaction mixture was allowed to warm to −20° C. over 1 h, then quenched with water and extracted with dichloromethane. The combined organic extract was washed with aqueous 1.0 N of NaOH and brine, dried with anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel using dichloromethane/methanol (98:2 to 95:5) as eluent to afford the title product, a compound of the present invention, as semi-solid (70 mg, 82% yield).

reactant | dimethylsulfoxide | 38 mg | CS(=O)C | C2H6OS
reactant | trifluoroacetic anhydride | 105 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenecarboxamide | 1.5 mL, 75 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)N)C(F)(F)F | C21H13Cl2F3N2O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-N-(dimethyl-λ4-sulfanylidene)-1-naphthalenecarboxamide | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)N=S(C)C)C(F)(F)F | C23H17Cl2F3N2O2S
